US08633173B2
2-Chloro-8-(2-chloro-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (0.50 g, 2.15 mmol) and 2-chloro-5-trifluoromethylphenylboronic acid (0.72 g, 3.23 mmol) in a manner analogous to Example 2c (0.115 g, 16%). MP=156-158° C. MS=332 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 2.15 mmol, 0.50 g | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 2-chloro-5-trifluoromethylphenylboronic acid | 3.23 mmol, 0.72 g | ClC1=C(C=C(C=C1)C(F)(F)F)B(O)O | C7H5BClF3O2
product | 2-Chloro-8-(2-chloro-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | ClC1=NN2C(C(=CC=C2)C2=C(C=CC(=C2)C(F)(F)F)Cl)=N1 | C13H6Cl2F3N3
